US05539083
1-(Chlorocarbonylmethyl)thymine
Oxalyl chloride (6.3 g, 50 mmol) is added dropwise over 5 minutes to a solution of 1-(carboxymethyl)thymine (9.2 g, 50 mmol) dissolved in dichloromethane (200 mL). The reaction is stirred until gas evolution has ceased and then for an additional 2 hours. The reaction mixture is evaporated to an oil.

reactant | Oxalyl chloride | 50 mmol, 6.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(carboxymethyl)thymine | 50 mmol, 9.2 g | C(=O)(O)CN1C(=O)NC(=O)C(C)=C1 | C7H8N2O4
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-(Chlorocarbonylmethyl)thymine | ClC(=O)CN1C(=O)NC(=O)C(C)=C1 | C7H7ClN2O3
